US08877774B2
Step 2. 3-(1,3-Dioxolan-2-yl)propyl 4-(N′-hydroxycarbamimidoyl)benzoate
To a solution of 3-(1,3-dioxolan-2-yl)propyl 4-cyanobenzoate (1.00 g, 4.38 mmol) in ethanol (5 mL), was added hydroxylamine (50% aqueous solution, 5 mL), and the mixture heated at 80° C. for 4 hours. The reaction was diluted with saturated brine and extracted with ethyl acetate (×3). The combined organic fractions were dried with magnesium sulphate, and the solvent evaporated at reduced pressure. The material was used directly in the next step without further purification.

reactant | 3-(1,3-dioxolan-2-yl)propyl 4-cyanobenzoate | 4.38 mmol, 1.00 g | C(#N)C1=CC=C(C(=O)OCCCC2OCCO2)C=C1 | C14H15NO4
reactant | hydroxylamine | 5 mL | NO | H3NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | brine | [Cl-].[Na+].O
product | 3-(1,3-Dioxolan-2-yl)propyl 4-(N′-hydroxycarbamimidoyl)benzoate | ON=C(N)C1=CC=C(C(=O)OCCCC2OCCO2)C=C1 | C14H18N2O5
